US09416135B2
To a stirred solution of 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylic acid (55 μmol) in anhydrous DMF (1 mL) was added HATU (42 mg, 0.11 mmol), NH4Cl (30 mg, 0.55 mmol) and N,N-diisopropylethylamine (100 μL, 0.55 mmol). The mixture was stirred at rt for 20 h. It was diluted with CH2Cl2 (10 mL) and washed with H2O. The organic layer was separated, and the aqueous layer was extracted with CH2Cl2 (3×10 mL). The combined organic solution was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude residue was purified by silica chromatography and SFC separation to give isomers of 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxamide.

reactant | 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylic acid | 55 μmol | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)O | C22H23F3N4O5S
reactant | HATU | 0.11 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NH4Cl | 0.55 mmol, 30 mg | [NH4+].[Cl-]
reactant | N,N-diisopropylethylamine | 0.55 mmol, 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxamide | OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)N | C22H24F3N5O4S
